US06559163B2
(1) 2-(3,4-difluoroPhenyl)-4-quinoline Carboxylic Acid
A mixture of 2,3-indolinedione (5 g, 0.03 mole), 3′,4′-difluoroacetophenone (5 g, 0.03 mole) and potassium hydroxide (3 g, 0.05 mole) in 1,4-dioxane (50 mL) is heated at 105° C. for 48 hours. The reaction solution is then cooled to room temperature and concentrated under reduced pressure. The residue is treated with EtOAc and extracted with water. The pH of the aqueous layer is adjusted to 5-6 with 1N HCl, the resulting solid is collected by vacuum filtration, washed with water, and dried to give the titled compound (450 mg) as a yellow solid.

reactant | 2,3-indolinedione | 0.03 mole, 5 g | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | 3′,4′-difluoroacetophenone | 0.03 mole, 5 g | FC=1C=C(C=CC1F)C(C)=O | C8H6F2O
reactant | potassium hydroxide | 0.05 mole, 3 g | [OH-].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-(3,4-difluoroPhenyl)-4-quinoline Carboxylic Acid | 450 mg | FC=1C=C(C=CC1F)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H9F2NO2
